US04297350
2-Ethylidene-17β-methoxy-5α-androstan-3-one
A mixture of 17β-methoxy-5α-androstan-3-one (U.S. Pat. No. 3,301,850, Example 14, 8 g.), potassium hydroxide (2.1 g.) and acetaldehyde (5 ml.) in absolute ethanol (500 ml.) is stirred for 16 hours under nitrogen. The potassium hydroxide is then neutralized with acetic acid and the mixture concentrated to about 100 ml. Water is added and the product is extracted with diethyl ether. After the diethyl ether is removed the steroid is chromatographed over silica gel and then alumina. The appropriate fractions are pooled and concentrated to give both isomers of the product, IR (neat) 1720 and 1690 cm-1 ; MS (m/e) 330; NMR (CDCl3) 0.79, 0.78, 0.83, 1.72, 3.22, 3.35 and 6.75 δ; and UV (ethanol) λ=246 nm (ε=4,300).

reactant | 17β-methoxy-5α-androstan-3-one | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C20H32O2
reactant | potassium hydroxide | 2.1 g | [OH-].[K+]
reactant | acetaldehyde | 5 ml | C(C)=O | C2H4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-Ethylidene-17β-methoxy-5α-androstan-3-one | C(C)=C1C(C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)OC)=O | C22H34O2
